US04788206
The compound was prepared according to the procedure described in Example 84. The following reagents were used: 3,3'-bis(trifluoromethyl)benzophenone (31.8 g), diisopropylamine (32.2 mL), 1.6M n-butyl lithium in hexane (144 mL), acetaldehyde N-tert-butylimine (14.75 mL) diethyl chlorophosphonate (16.6 mL) and tetrahydrofurane (200 mL). After the usual work up, the product was purified by HPLC to give 30,8 g of 3,3-bis[3-(trifluoromethyl)phenyl]-2-propenal as an oil.

reactant | 3,3'-bis(trifluoromethyl)benzophenone | 31.8 g | FC(C=1C=C(C(=O)C2=CC(=CC=C2)C(F)(F)F)C=CC1)(F)F | C15H8F6O
reactant | diisopropylamine | 32.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | tetrahydrofurane | 200 mL | O1CCCC1 | C4H8O
solvent | hexane | 144 mL | CCCCCC | C6H14
solvent | acetaldehyde N-tert-butylimine | 14.75 mL | C(C)(C)(C)N=CC | C6H13N
product | 3,3-bis[3-(trifluoromethyl)phenyl]-2-propenal | 30,8 g | FC(C=1C=C(C=CC1)C(=CC=O)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H10F6O
